US05589501
3) Preparation of 1,1-diphenyl-4-iodobutane
A mixture of 1,1-diphenyl-4-bromobutane (2.5 g, 12 mmol) and NaI (11.9 g, 80 mmol) in 2-butanone (70 ml) was heated for 4 hours at reflux. The solvent was removed in vacuo and the residue was taken up in Et2O (100 ml). The organic layer was washed with aqueous Na2SO3 (10%) and with brine, dried (Na2SO4), and concentrated in vacuo. The oil was distilled under high vacuum to obtain the title compound, bp 150° C./0.1 mm.

reactant | 1,1-diphenyl-4-bromobutane | 12 mmol, 2.5 g | C1(=CC=CC=C1)C(CCCBr)C1=CC=CC=C1 | C16H17Br
reactant | NaI | 80 mmol, 11.9 g | [Na+].[I-]
solvent | 2-butanone | 70 ml | CC(CC)=O | C4H8O
product | 1,1-diphenyl-4-iodobutane | C1(=CC=CC=C1)C(CCCI)C1=CC=CC=C1 | C16H17I
